US08871384B2
Into a 3-liter autoclave were poured 84 g (1.35 mol) of KOH, 800 ml of H2O and 600 g (4.5 mol) of 2,2,3,3-tetrafluoropropanol: CHF2CF2CH2OH. Then, 681 g (4.5 mol) of hexafluoropropene: CF2═CFCF3 was introduced thereto. After completion of the reaction, the reaction solution was separated into two layers, and the lower layer was washed with water three times to separate the solution. After that, refining by distillation was carried out, and 1,015 g (3.6 mol) of a fluorine-containing chain ether (B1a): CHF2CF2CH2OCF2CHFCF3 was obtained (yield 80%).

reactant | KOH | 1.35 mol, 84 g | [OH-].[K+]
reactant | 2,2,3,3-tetrafluoropropanol | 4.5 mol, 600 g | FC(CO)(C(F)F)F | C3H4F4O
reactant | CHF2CF2CH2OH | C(F)(F)C(F)(F)CO | C3H4F4O
reactant | hexafluoropropene | 4.5 mol, 681 g | FC(C(=C(F)F)F)(F)F | C3F6
reactant | CF2═CFCF3 | C(F)(F)=C(F)C(F)(F)F | C3F6
reactant | fluorine | 3.6 mol, 1,015 g | FF | F2
solvent | ether | CCOCC | C4H10O
solvent | H2O | 800 ml | O | H2O
product | CHF2CF2CH2OCF2CHFCF3 | yield 80% | C(F)(F)C(F)(F)COC(F)(F)C(F)C(F)(F)F | C6H4F10O
